US08389523B2
6.7 g (20 mmol) of 5-chloro-1-(4-methoxyphenyl)-2-oxo-1,2-dihydroquinoxaline-3-carboxylic acid was dissolved in chloroform (300 mL), and to this solution, N,N-dimethylformamide (0.5 mL) and 5.2 g (41 mmol) of oxalyl chloride were added sequentially. The mixture was stirred for one hour at room temperature. After confirming the completion of the reaction, the solvent was distilled off under reduced pressure. The residue thus obtained was dissolved in chloroform (70 mL), and this solution was added dropwise at 0° C. over 5 minutes to a solution prepared by dissolving 2.5 g (22 mmol) of 1,3-cyclohexanedione and 2.5 g (25 mmol) of triethylamine in chloroform (70 mL). The reaction solution was returned to room temperature and stirred for 3 hours, and then 0.86 g (10 mmol) of acetone cyanohydrin and 2.5 g (25 mmol) of triethylamine were added thereto. The mixture was stirred for 12 hours at room temperature. The reaction solution was washed with 10% hydrochloric acid and dried over anhydrous sodium sulfate, and then the solvent was distilled off under reduced pressure. The residue thus obtained was washed with ethyl acetate, to obtain 6.0 g (yield: 70%) of 5-chloro-3-(2-hydroxy-6-oxo-1-cyclohexenecarbonyl)-1-(4-methoxyphenyl)quinoxalin-2(1H)-one as a pale orange-colored powder.

reactant | 5-chloro-1-(4-methoxyphenyl)-2-oxo-1,2-dihydroquinoxaline-3-carboxylic acid | 20 mmol, 6.7 g | ClC1=C2N=C(C(N(C2=CC=C1)C1=CC=C(C=C1)OC)=O)C(=O)O | C16H11ClN2O4
reactant | oxalyl chloride | 41 mmol, 5.2 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1,3-cyclohexanedione | 22 mmol, 2.5 g | C1(CC(CCC1)=O)=O | C6H8O2
reactant | triethylamine | 25 mmol, 2.5 g | C(C)N(CC)CC | C6H15N
reactant | acetone cyanohydrin | 10 mmol, 0.86 g | CC(C#N)(O)C | C4H7NO
reactant | triethylamine | 25 mmol, 2.5 g | C(C)N(CC)CC | C6H15N
solvent | chloroform | 300 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 70 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 70 mL | C(Cl)(Cl)Cl | CHCl3
solvent | N,N-dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
product | 5-chloro-3-(2-hydroxy-6-oxo-1-cyclohexenecarbonyl)-1-(4-methoxyphenyl)quinoxalin-2(1H)-one | 6.0 g, yield: 70% | ClC1=C2N=C(C(N(C2=CC=C1)C1=CC=C(C=C1)OC)=O)C(=O)C1=C(CCCC1=O)O | C22H17ClN2O5
